US07037925B2
2-(3-Amino-2-methylphenyl)acetonitrile
2-(2-Methyl-3-nitrophenyl)acetonitrile (Askam, V. et al. J. Chem. Soc. C (1969)1935–1936;) was hydrogenated over 5% palladium-charcoal 50 mg in EtOAc/EtOH 1:1 (14 ml) for three hours. The mixture was filtered through celite, and the filtrate was concentrated to give the title compound 77 mg (77%) as a white powder.

reactant | 2-(2-Methyl-3-nitrophenyl)acetonitrile | CC1=C(C=CC=C1[N+](=O)[O-])CC#N | C9H8N2O2
solvent | EtOAc EtOH | 14 ml | CCOC(=O)C.CCO
catalyst | palladium-charcoal | 50 mg | [Pd] | Pd
product | 2-(3-Amino-2-methylphenyl)acetonitrile | 77 mg, 77% | NC=1C(=C(C=CC1)CC#N)C | C9H10N2
